US05409928
Preparation of 4-hydroxy-8-[4-(3-methylphenylmethyl)phenyl]pyrazolo[1,5-a]-1,3,5-triazine
A mixture of 3-amino-2-carbamoyl-4-{4-(3-methylphenylmethyl) phenyl}pyrazole (3.0 g), ethyl orthoformate (2 ml) and N,N-dimethylformamide (4 ml) was heated and stirred at 100° C. to 110° C. After 1 hour, to the mixture was added ethyl acetate (50 ml). The precipitate was separated by filtration, washed with ethyl acetate, dried to give the title compound (2.0 g).

reactant | 3-amino-2-carbamoyl-4-{4-(3-methylphenylmethyl) phenyl}pyrazole | 3.0 g | NC=1N(N=CC1C1=CC=C(C=C1)CC1=CC(=CC=C1)C)C(N)=O | C18H18N4O
reactant | ethyl orthoformate | 2 ml | C(OCC)([O-])[O-]
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-8-[4-(3-methylphenylmethyl)phenyl]pyrazolo[1,5-a]-1,3,5-triazine | 2.0 g | OC1=NC=NC=2N1N=CC2C2=CC=C(C=C2)CC2=CC(=CC=C2)C | C19H16N4O
